US09302991B2
<Step-5>:(R)—N-(1-(2-chloro-4-(2,2-difluoroethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 55% yield (990 mg, clear colorless oil) from 1-(2-chloro-4-(2,2-difluoroethoxy)phenyl)ethanone (1.2 g, 5.2 mmol, Step-4) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(2-chloro-4-(2,2-difluoroethoxy)phenyl)ethanone | 5.2 mmol, 1.2 g | ClC1=C(C=CC(=C1)OCC(F)F)C(C)=O | C10H9ClF2O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(2-chloro-4-(2,2-difluoroethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 55% yield | ClC1=C(C=CC(=C1)OCC(F)F)C(C)N[S@](=O)C(C)(C)C | C14H20ClF2NO2S
